US07319099B2
(b) 3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid amide hydrochloride
0.25 mmol of 5′-Carbamoyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester was stirred for 1 hour in 1 ml of dioxane saturated with gaseous HCl. Concentration of the reaction mixture led to the title compound, as a colorless solid. MS (m/e): 208.3 (MH+, 100%)

reactant | 5′-Carbamoyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 0.25 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(N=C1)C(N)=O | C14H21N5O3
reactant | HCl | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid amide hydrochloride | Cl.N1(CCNCC1)C1=NC=C(N=C1)C(=O)N | InChI=1S/C9H13N5O.ClH/c10-9(15)7-5-13-8(6-12-7)14-3-1-11-2-4-14;/h5-6,11H,1-4H2,(H2,10,15);1H
